US07855292B2
A. (S)-2-(Benzhydrylidene-amino)-3-(3-bromo-4-fluoro-phenyl)-propionic acid tert-butyl ester
To a flame-dried flask was added (benzhydrylidene-amino)-acetic acid tert-butyl ester (250 mg, 0.846 mmol), O-allyl-N-(9-anthracenylmethyl)-cinchonidinium bromide (51 mg, 0.085 mmol), and DCM (5 mL). The flask was cooled to −55° C. and CsOH.H2O (1.4 g, 8.46 mmol) was added. The mixture was stirred for 30 min, treated with 3-bromo-4-fluorobenzyl bromide (1.1 g, 4.23 mmol), and stirred at −55° C. overnight. The mixture was diluted with Et2O (5 mL) and water (10 mL), warmed to rt, and washed with water and brine. The organic layer was dried (MgSO4) and concentrated. The residue was purified by column chromatography to provide the title compound (300 mg, 74%, er=97:3). MS (ESI+): mass calcd. for C26H25BrFNO2, 482.4; m/z found, 483.4 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.59-7.54 (m, 2H), 7.41-7.20 (m, 7H), 7.02-6.91 (m, 2H), 6.72 (d, J=6.5 Hz, 2H), 4.11-4.07 (m, 1H), 3.19-3.08 (m, 2H), 1.45 (s, 9H).

reactant | (benzhydrylidene-amino)-acetic acid tert-butyl ester | 0.846 mmol, 250 mg | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
reactant | O-allyl-N-(9-anthracenylmethyl)-cinchonidinium bromide | 0.085 mmol, 51 mg | C=CCOC(C1CC2CC[N+]1(CC2C=C)CC3=C4C=CC=CC4=CC5=CC=CC=C53)C6=CC=NC7=CC=CC=C67.[Br-]
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
reactant | 3-bromo-4-fluorobenzyl bromide | 4.23 mmol, 1.1 g | BrC=1C=C(CBr)C=CC1F | C7H5Br2F
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
product | (S)-2-(Benzhydrylidene-amino)-3-(3-bromo-4-fluoro-phenyl)-propionic acid tert-butyl ester | 300 mg, 74% | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)F)Br)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H25BrFNO2
